US04554007
To the resulting 1-(4-chlorophenyl)-2-(1,2,4-triazole-1-yl)-3-acetoxyl-1,3-heptadiene (9 g) was added conc. hydrochloric acid (100 ml), and the mixture was heated to 50° C. for 2 hours and poured into ice water (500 ml). The aqueous liquor was neutralized with potassium carbonate and extracted with ethyl acetate (300 ml). The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed by evaporation. The crystalline residue was recrystallized from a carbon tetrachloride/n-hexane (1:1) mixture to obtain 6 g of the II-B isomer of 1-(4-chlorophenyl)-2-(1,2,4-triazole-1-yl)-1-heptene-3-one.

reactant | 1-(4-chlorophenyl)-2-(1,2,4-triazole-1-yl)-3-acetoxyl-1,3-heptadiene | 9 g | ClC1=CC=C(C=C1)C=C(C(=CCCC)OC(=O)C)N1N=CN=C1 | C17H18ClN3O2
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-(4-chlorophenyl)-2-(1,2,4-triazole-1-yl)-1-heptene-3-one | ClC1=CC=C(C=C1)C=C(C(CCCC)=O)N1N=CN=C1 | C15H16ClN3O
